US04388317
A mixture of 2-(5-dimethylaminomethyl-2-furanylmethylthio)ethylamine (1.71 g) and 2-nitroamino-5-(4-dimethylamino methylbenzyl)-4-pyrimidone (1.97 g) in ethanol (12 ml) was heated under reflux for 42 hr. The ethanol was evaporated at reduced pressure yielding 2-[2-(5-dimethylaminomethyl-2-furanylmethylthio)ethylamino]-5-(4-dimethylaminomethylbenzyl) 4-pyrimidone as a brown oily residue which was washed with hot water, cooled and mixed with dilute ethanolic hydrochloride acid. Excess of ethanol was evaporated under reduced pressure and the residue was recrystallised from isopropanol/methanol and from ethanol to give the trihydrochloride (1.85 g) as an off-white solid m.p. 180°-184° C.

reactant | 2-(5-dimethylaminomethyl-2-furanylmethylthio)ethylamine | 1.71 g | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | 2-nitroamino-5-(4-dimethylamino methylbenzyl)-4-pyrimidone | 1.97 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC1=CC=C(C=C1)CN(C)C | C14H17N5O3
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | 2-[2-(5-dimethylaminomethyl-2-furanylmethylthio)ethylamino]-5-(4-dimethylaminomethylbenzyl) 4-pyrimidone | CN(C)CC1=CC=C(O1)CSCCNC1=NC=C(C(N1)=O)CC1=CC=C(C=C1)CN(C)C | C24H33N5O2S
